US04699995
1-Bromo-2-(4-[(Z)1-Undecenyl]phenoxy)ethane
4-[(Z)-1-Undecenyl]phenol, (2.30 g, 9.30 mmol) and anhydrous potassium carbonate, (1.93 g, 14.0 mmol) in methyl isobutyl ketone (100 ml) were stirred and treated with 1,2-dibromoethane, (5.27 g, 29 mmol). The mixture was refluxed for 24 h after which time a further aliquot of 1,2-dibromoethane, (5.27 g, 28 mmol) was added. The mixture was refluxed a further 24 h, then cooled and washed with water, (twice). The organic phase was dried, (MgSO4), and evaporated in vacuo to an oil. Purification by column chromatography on silica gel, eluting with n-hexane then dichloromethane gave 1.34 g (41%) of the title compound as a white crystalline solid mp 40°-1° C. νmax (mull) 1510, 1573 (weak) 1610 cm-1, δ (CDCl3) 0.86 (3H, distorted t, terminal CH3), 1.26 (14H, m, (CH2)7), 2.26 (2H, m, allylic CH2), 3.60 (2H, t, J 6 Hz, CH2Br), 4.26 (2H, t, J 6 Hz, OCH2) 5.56 (1H, d.t, Jd 12 Hz, Jt 7 Hz, =CH--alkyl), 6.32 (1H, d, J 12 Hz, ArCH=), 7.06 (4H, ABq, Δν 33 Hz, J 9 Hz, C6H4).

reactant | 4-[(Z)-1-Undecenyl]phenol | 9.30 mmol, 2.30 g | C(=C/CCCCCCCCC)/C1=CC=C(C=C1)O | C17H26O
reactant | potassium carbonate | 14.0 mmol, 1.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 29 mmol, 5.27 g | BrCCBr | C2H4Br2
reactant | 1,2-dibromoethane | 28 mmol, 5.27 g | BrCCBr | C2H4Br2
solvent | methyl isobutyl ketone | 100 ml | C(C(C)C)C(=O)C | C6H12O
product | 1-Bromo-2-(4-[(Z)1-Undecenyl]phenoxy)ethane | 1.34 g, 41% | BrCCOC1=CC=C(C=C1)\C=C/CCCCCCCCC | C19H29BrO
